US06927222B2
iii) N-{2-[(3-{3-[(4-Chlorophenyl)oxy]-1-pyrrolidinyl}-2-hydroxy-1-methylpropyl)oxy]phenyl}acetamide hydrochloride
The title compound (230 mg, 100%) was prepared from N-[2-(1-oxiranylethoxy)phenyl]acetamide diasteromer 2 (123 mg, 0.557 mmol) and 3-(4-chlorophenoxy)pyrrolidine (100 mg, 0.506 mmol) analogously to that described in Example 1 (iii).

reactant | N-[2-(1-oxiranylethoxy)phenyl]acetamide | O1C(C1)C(C)OC1=C(C=CC=C1)NC(C)=O | C12H15NO3
reactant | 3-(4-chlorophenoxy)pyrrolidine | 0.506 mmol, 100 mg | ClC1=CC=C(OC2CNCC2)C=C1 | C10H12ClNO
product | N-{2-[(3-{3-[(4-Chlorophenyl)oxy]-1-pyrrolidinyl}-2-hydroxy-1-methylpropyl)oxy]phenyl}acetamide hydrochloride | 230 mg, 100% | Cl.ClC1=CC=C(C=C1)OC1CN(CC1)CC(C(C)OC1=C(C=CC=C1)NC(C)=O)O | InChI=1S/C22H27ClN2O4.ClH/c1-15(28-22-6-4-3-5-20(22)24-16(2)26)21(27)14-25-12-11-19(13-25)29-18-9-7-17(23)8-10-18;/h3-10,15,19,21,27H,11-14H2,1-2H3,(H,24,26);1H
